US07973012B2
To a tetrahydrofuran solution (1 L) of 1-bromo-4-[2-(methoxymethoxy)ethyl]benzene (50.2 g, 0.205 mol) was added dropwise under nitrogen atmosphere at −78° C. a 2.6 M n-butyllithium solution in hexane (78.8 mL, 0.205 mol), and the mixture was stirred for 15 minutes at the same temperature. Then a tetrahydrofuran solution (150 mL) of 4-benzyloxy-5-bromo-2-methyl benzaldehyde (56.9 g, 0.195 mol) was added dropwise over an hour, and the mixture was stirred for 30 minutes at the same temperature. To the reaction solution was added a saturated aqueous solution of ammonium chloride, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of ammonium chloride and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain [4-(benzyloxy)-5-bromo-2-methylphenyl][4-[2-(methoxymethoxy)ethyl]phenyl]methanol.

reactant | 1-bromo-4-[2-(methoxymethoxy)ethyl]benzene | 0.205 mol, 50.2 g | BrC1=CC=C(C=C1)CCOCOC | C10H13BrO2
reactant | n-butyllithium | 2.6 M | C(CCC)[Li]
reactant | hexane | 0.205 mol, 78.8 mL | CCCCCC | C6H14
reactant | 4-benzyloxy-5-bromo-2-methyl benzaldehyde | 0.195 mol, 56.9 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1Br)C | C15H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | [4-(benzyloxy)-5-bromo-2-methylphenyl][4-[2-(methoxymethoxy)ethyl]phenyl]methanol | C(C1=CC=CC=C1)OC1=CC(=C(C=C1Br)C(O)C1=CC=C(C=C1)CCOCOC)C | C25H27BrO4
